US07692005B2
5-Acetyl-thiophene-2-carboxylic acid (4-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide
A small screw cap test tube was charged with 5-Acetyl-thiophene-2-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 50 mg, 0.116 mmol) and THF (2 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (20.0 mg, 0.1122 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The solid residue was recrystallized with ˜2 mL of i-prOH affording the title compound in 64% yield (0.044 g, 0.0742 mmol).

reactant | 5-Acetyl-thiophene-2-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.116 mmol, 50 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1SC(=CC1)C(C)=O)=O | C23H16N2O5S
reactant | N-(4-aminophenyl)morpholine | 0.1122 mmol, 20.0 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-Acetyl-thiophene-2-carboxylic acid (4-{3-[(4-morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-amide | 64% yield | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1SC(=CC1)C(C)=O)=O | C33H28N4O5S
